US06828460B2
(±)-3-[2,4-Bis(methoxymethoxy)phenyl]cyclohexanone
A suspension of 3-[2,4-bis(methoxymethoxy)phenyl]-2-cyclohexen-1-one (300 m g) and palladium catalyst (50 mg, 10% palladium on carbon) in ethanol was stirred at ambient temperature under 1 atmosphere of hydrogen. After 16 hr, the mixture was filtered through celite and the filtrate was evaporated in vacuo. The product was dissolved in dichloromethane (15 ml). Celite and pyridinium chlorochromate (430 mg) were added and the mixture was stirred at room temperature. After 3 hr, the mixture was filtered through a pad of silica and eluted with petroleum ether/ethyl acetate (10:3, v/v), then purified by flash column chromatography (SiO2, petroleum ether/ethyl acetate 4:1 v/v) to furnish the title compound as an oil (200 mg, 70%). δH(CDCl3) 1.7-1.9 (2H, overlapping m), 2.05 (1H, m), 2.15 (1H, m), 2.35-2.60 (4H, overlapping m), 3.37 (1H, m), 3.490 (3H, s), 3.492 (3H, s), 5.15 (2H, s), 5.20 (2H, s), 6.70 (1H, dd), 6.82 (1H, d), 7.09 (1H, d).

reactant | 3-[2,4-bis(methoxymethoxy)phenyl]-2-cyclohexen-1-one | COCOC1=C(C=CC(=C1)OCOC)C1=CC(CCC1)=O | C16H20O5
reactant | hydrogen | [H][H] | H2
catalyst | palladium | 50 mg | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | (±)-3-[2,4-Bis(methoxymethoxy)phenyl]cyclohexanone | 200 mg, 70% | COCOC1=C(C=CC(=C1)OCOC)C1CC(CCC1)=O | C16H22O5
